US05219871
Preparation of 2,2-diphenyl-4-[N-methyl-N-(3-phenylprop-1-yl)-amino]butanamide
A solution of potassium hydroxide (0.2 g) in water (10 ml) was added to a solution of 1-cyano-1,1-diphenyl-3-[N-methyl-N-(3-phenylprop-1-yl)amino]propane (0.22 g-see Preparation 23) in ethanol (10 ml) and the mixture was heated at 150° C. for 20 hours in a stainless steel pressure vessel then concentrated in vacuo. Water (30 ml) was added to the residue and the mixture was extracted with dichloromethane (3×30 ml). The combined dichloromethane extracts were dried (Na2SO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a viscous gum, yield, 0.11 g.

reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
reactant | 1-cyano-1,1-diphenyl-3-[N-methyl-N-(3-phenylprop-1-yl)amino]propane | 0.22 g | C(#N)C(CCN(CCCC1=CC=CC=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H28N2
solvent | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2-diphenyl-4-[N-methyl-N-(3-phenylprop-1-yl)-amino]butanamide | C1(=CC=CC=C1)C(C(=O)N)(CCN(CCCC1=CC=CC=C1)C)C1=CC=CC=C1 | C26H30N2O
